US06410529B1
D30 Benzoxazole-6-carboxylic acid
4-Amino-3-hydroxybenzoic acid (2.200 g) and formic acid (20 ml) were heated at 117° C. for 4 h. The reaction mixture was cooled to ambient temperature and the precipitated solid collected by filtration, washed with diethyl ether and dried at reduced pressure. The solid (0.580 g) was heated at reflux with zinc chloride (2.00 g) and c.H2SO4 (2 drops) in xylene (150 ml) under a Dean and Stark for 16 h. On cooling, water was added and the brown solid collected by filtration and washed with water. The resulting solid was washed with methanol and the solvent removed from the filtrate under reduced pressure to give the title compound as a dark brown solid (0.349 g).

reactant | 4-Amino-3-hydroxybenzoic acid | 2.200 g | NC1=C(C=C(C(=O)O)C=C1)O | C7H7NO3
reactant | formic acid | 20 ml | C(=O)O | CH2O2
product | Benzoxazole-6-carboxylic acid | 0.349 g | O1C=NC2=C1C=C(C=C2)C(=O)O | C8H5NO3
